US06251912B1
But-2-ynoic acid [4-(3-dimethylamino-phenylamino)-quinazolin-6-yl]-amide
A mixture of 2.54 grams (0.01 moles) of but-2-ynoic acid [3-cyano-4-(dimethylamino-methyleneamino)-phenyl]-amide, 2.40 grams (0.0115 moles) of N, N-dimethyl-1,3-phenylenediamine dihydrochloride, and 1.59 grams (0.0115 moles) of potassium carbonate in 2.5 mL of glacial acetic acid and 5 mL of acetonitrile was refluxed for an hour. On cooling the solid was filtered and recrystallized from methyl cellusolve to give 2.02 grams (58%) of the desired product, which melted at 252-254° C. MS M+H=346.1.

reactant | but-2-ynoic acid [3-cyano-4-(dimethylamino-methyleneamino)-phenyl]-amide | 0.01 moles, 2.54 grams | C(#N)C=1C=C(C=CC1N=CN(C)C)NC(C#CC)=O | C14H14N4O
reactant | N, N-dimethyl-1,3-phenylenediamine dihydrochloride | 0.0115 moles, 2.40 grams | Cl.Cl.CN(C1=CC(=CC=C1)N)C
reactant | potassium carbonate | 0.0115 moles, 1.59 grams | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 2.5 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | But-2-ynoic acid [4-(3-dimethylamino-phenylamino)-quinazolin-6-yl]-amide | 2.02 grams, 58% | CN(C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C#CC)=O)C | C20H19N5O
